US06403561B1
a) Preparation of N-benzyloxycarbonyl-L-valine
10 g of L-valine (85 mmol) are dissolved in 4 M KOH (40 ml) and the mixture is cooled in ice. 21.9 g of benzyloxycarbonyl chloride (128 mmol) are added thereto over 5 minutes and a white solid forms. The mixture is stirred at 0° C. for one hour, the temperature is then allowed to rise and stirring is continued for another hour at room temperature. The reaction mixture is then diluted with 4 M KOH (200 ml) and is extracted with ether (2×100 ml). The aqueous phase is then brought to an acidic pH<1 with concentrated hydrochloric acid and is then extracted with ethyl acetate (3×200 ml). The extracts are combined and dried (Na2SO4) and the solvent is evaporated off. A clear oil is obtained.

reactant | L-valine | 85 mmol, 10 g | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | benzyloxycarbonyl chloride | 128 mmol, 21.9 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | KOH | 4 M, 40 ml | [OH-].[K+]
solvent | KOH | 4 M, 200 ml | [OH-].[K+]
product | N-benzyloxycarbonyl-L-valine | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)O | C13H17NO4
